US07741352B2
2-Hydroxy-4-octyloxy-benzonitrile (Compound 12-5)
A solution of 2-hydroxy-4-octyloxy-benzamide (5.21 g; 19.7 mmol) and dibutyltinoxide (3.65 g; 14.6 mmol) was refluxed in toluene (60 mL) for 12 days. The reaction mixture was evaporated to dryness on SiO2 and purified by column chromatography (SiO2; EtOAc/PE80-100° C.=1:4) to yield 700 mg (14%) product as yellow crystals. Mp. 69-71° C. MS (Direct; Cl): 248 (MH+).

reactant | 2-hydroxy-4-octyloxy-benzamide | 19.7 mmol, 5.21 g | OC1=C(C(=O)N)C=CC(=C1)OCCCCCCCC | C15H23NO3
reactant | dibutyltinoxide | 14.6 mmol, 3.65 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-4-octyloxy-benzonitrile | 700 mg, 14% | OC1=C(C#N)C=CC(=C1)OCCCCCCCC | C15H21NO2
